US05270309
Treatment of methyl 5,7-dichloro-4-oxo-1,4-dihydroquinoline-2-carboxylate (2 g) with 1(2-aminoethyl-pyrrolidine (10 ml) as described in Example 39 gave 5,7-dichloro-2-[2-(1-pyrrolidinyl) ethyl]carbamoyl-4-oxo-1,4-dihydroquinoline dihydrochloride (1.5 g).,m.p.>280° C. δ (360 MHz, D2O) 2.02 and 2.16 (4H, 2m, pyrrolidinyl-3,4-H), 3.16 (2H, m, CH2N), 3.49 (2H, t, CONHCH2), 3.80 (4H, m, pyrrolidinyl-2,5-H), 6.70 (1H, s, 3-H), 7.43 (1H, d, 6-H) and 7.64 (1H, d, 8-H). (Found: C, 45.02; H, 4.52; N, 9.90%. C16H17Cl2N3O2.2HCl requires C, 44.99; H, 4.48; N, 9.84%).

reactant | methyl 5,7-dichloro-4-oxo-1,4-dihydroquinoline-2-carboxylate | 2 g | ClC1=C2C(C=C(NC2=CC(=C1)Cl)C(=O)OC)=O | C11H7Cl2NO3
reactant | 2-aminoethyl-pyrrolidine | 10 ml | NCCN1CCCC1 | C6H14N2
product | 5,7-dichloro-2-[2-(1-pyrrolidinyl) ethyl]carbamoyl-4-oxo-1,4-dihydroquinoline dihydrochloride | 1.5 g | Cl.Cl.ClC1=C2C(C=C(NC2=CC(=C1)Cl)C(NCCN1CCCC1)=O)=O | InChI=1S/C16H17Cl2N3O2.2ClH/c17-10-7-11(18)15-12(8-10)20-13(9-14(15)22)16(23)19-3-6-21-4-1-2-5-21;;/h7-9H,1-6H2,(H,19,23)(H,20,22);2*1H
